US07294637B2
Synthesis of Polymer Supported Methanesulfonic Acid Piperidin-3-ylmethyl Ester
To the Wang resin (12 g, 1.1 mmol/g) in a 250 mL peptide synthesis vessel was added 120 mL of 0.4 N CDl in anhydrous THF, and shaken at room temperature for 17 hours. The resin was thoroughly washed with CH2Cl2 (3×100 mL ) and THF (3×100 mL) to remove the excess CDl and then treated with 120 mL of 0.4 N 3-piperidinemethanol in THF at room temperature for 17 hours. The resulting resin 1 was washed with DMF (3×100 mL), MeOH (4×100 mL), and CH2Cl2 (4×100 mL) and dried in vacuo. To the alcohol resin 1 was added methanesulfonyl chloride (5.11 ml, 66 mmol) in 100 mL CH2Cl2 followed by 20 mL of pyridine, and the resulting slurry was shaken at room temperature for 17 hours. The resulting mesylate resin 2 was washed with DMF (3×100 mL), MeOH (4×100 mL), and CH2Cl2 (4×100 mL) and dried in vacuo.

reactant | methanesulfonyl chloride | 66 mmol, 5.11 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | pyridine | 20 mL | N1=CC=CC=C1 | C5H5N
reactant | THF | C1CCOC1 | C4H8O
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | Methanesulfonic Acid Piperidin-3-ylmethyl Ester | N1CC(CCC1)COS(=O)(=O)C | C7H15NO3S
